US07067540B2
To a solution of 4-methylpyrazole-1-carboxylic acid tert-butyl ester (1.0 g, 5.5 mmol) in carbon tetrachloride (20 mL) was added N-bromosuccinimide (1.0 g, 5.6 mmol) and benzoyl peroxide (50 mg), and the reaction mixture was heated at reflux for 16 h. The reaction mixture was cooled to room temperature, filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:4 EtOAc/hexanes) provided 4-bromomethylpyrazole-1-carboxylic acid tert-butyl ester as a light yellow oil (0.42 g, 30%): 1H NMR (300 MHz, CDCl3) δ 8.10 (s, 1H), 7.74 (s, 1H), 4.39 (s, 2H), 1.65 (s, 9H)

reactant | 4-methylpyrazole-1-carboxylic acid tert-butyl ester | 5.5 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1N=CC(=C1)C | C9H14N2O2
reactant | N-bromosuccinimide | 5.6 mmol, 1.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 50 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromomethylpyrazole-1-carboxylic acid tert-butyl ester | 0.42 g, 30% | C(C)(C)(C)OC(=O)N1N=CC(=C1)CBr | C9H13BrN2O2
